US06982274B2
5-Bromo-3-(3-fluorophenyl)-7-methyl-1-trityl-1H-indazole
To a solution of 2.56 g of 5-bromo-3-(3-fluorophenyl)-7-methyl-1H-indazole in 30 ml of dimethylformamide was added 0.50 g of sodium hydride at room temperature, and the mixture was stirred at the same temperature for 15 minutes. At the same temperature, 2.34 g of triphenylmethane chloride was added and the mixture was stirred at the same temperature for one day. Water was added to the reaction mixture and the mixture was diluted with ethyl acetate. The organic layer was sequentially washed with saturated aqueous ammonium chloride solution and brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10) and the resulting crystals were washed with diethyl ether, to give 1.94 g of the title compound as colorless crystals.

reactant | 5-bromo-3-(3-fluorophenyl)-7-methyl-1H-indazole | 2.56 g | BrC=1C=C2C(=NNC2=C(C1)C)C1=CC(=CC=C1)F | C14H10BrFN2
reactant | sodium hydride | 0.50 g | [H-].[Na+]
reactant | triphenylmethane chloride | 2.34 g | [Cl-].C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-3-(3-fluorophenyl)-7-methyl-1-trityl-1H-indazole | 1.94 g | BrC=1C=C2C(=NN(C2=C(C1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C33H24BrFN2
